US03948939
B. Benzyl 9-(4-toluoyl)-1,2,3,4-tetrahydrocarbazole-4-carboxylate
To a steam bath warmed mixture of 1.5 g sodium hydride in 25 ml. of dry dimethylformamide was added, dropwise and with stirring, 9.15 g. of benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate in 25 ml. dry dimethylformamide followed by 5.4 g. of 4-toluoyl chloride in 15 ml. dry dimethylformamide, and heating was continued for two hours. The mixture was cooled and diluted with ether and 1.5 ml. glacial acetic acid. Water was added, the layers were separated and the ether extract was washed with water, 5% potassium bicarbonate solution, 1% aqueous hydrochloric acid and water, and dried over magnesium sulfate. The ether was evaporated to give the title compound which was used without purification in the next step.

reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | benzyl 1,2,3,4-tetrahydrocarbazole-4-carboxylate | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)OCC1=CC=CC=C1 | C20H19NO2
reactant | 4-toluoyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | ether | CCOCC | C4H10O
solvent | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Benzyl 9-(4-toluoyl)-1,2,3,4-tetrahydrocarbazole-4-carboxylate | C1(=CC=C(C=C1)C(=O)N1C2=CC=CC=C2C=2C(CCCC12)C(=O)OCC1=CC=CC=C1)C | C28H25NO3
